US05670505
To a stirred mixture of (2R)-4-(2-aminoethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine dihydrochloride (110 mg), triethylamine (0.2 ml) in dichloromethane (10 ml) was added methanesulfonyl chloride (0.1 ml) at 0° C. After stirring for 1 hour, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed successively with aqueous saturated sodium bicarbonate solution and brine, and dried. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on a silica gel eluting with a mixture of dichloromethane and methanol (40:1) and treated with 4N hydrogen chloride in ethyl acetate solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[2-(mesylamino)ethyl]piperazine hydrochloride (50 mg).

reactant | (2R)-4-(2-aminoethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)piperazine dihydrochloride | 110 mg | Cl.Cl.NCCN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CC(=C(C=C1)C)C
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[2-(mesylamino)ethyl]piperazine hydrochloride | 50 mg | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCNS(=O)(=O)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C25H29F6N3O3S.ClH/c1-16-4-5-18(10-17(16)2)11-22-15-33(7-6-32-38(3,36)37)8-9-34(22)23(35)19-12-20(24(26,27)28)14-21(13-19)25(29,30)31;/h4-5,10,12-14,22,32H,6-9,11,15H2,1-3H3;1H/t22-;/m1./s1
